Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
thoracic aortic aneurysm
 
Major Surgical or Invasive Procedure:
___: Endovascular Thoracic Aortic Aneurysm Repair with stent 
graft

 
History of Present Illness:
The patient is a ___ gentleman with an increasing in 
size descending thoracic aortic aneurysm measuring 7 cm who 
presents for thoracic endograft repair.

 
Past Medical History:
Past Medical History:
-COPD
-? Atrial fibrillation vs atrial tachycardiac
-CHF with diastolic dysfunction
-Severe aortic stenosis
-Psoriasis
-Renal cancer s/p ablation
-known ventral hernia, followed by Dr ___
- thoracic aortic aneurysm 

Past Surgical History:
-Appendectomy
-Ventral herniorrhaphy 
-Exlap/LOA/hernia repair ___
-cardiac cath 

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
BP114/65  HR 100 RR 20
Card:S1S2, ___ systolic murmur 
Lungs:Scattered wheezes throughout 
Abd:Soft, non tender
Extremities: warm, well perfused, pulses palpable throughtout
Groin puncture site dry, no drainage. 
 
Pertinent Results:
___ 05:50AM BLOOD WBC-11.0 RBC-4.58* Hgb-13.1* Hct-41.0 
MCV-90 MCH-28.7 MCHC-32.0 RDW-13.5 Plt ___
___ 05:50AM BLOOD Glucose-92 UreaN-17 Creat-1.0 Na-138 
K-4.0 Cl-102 HCO3-26 AnGap-14
___ 05:50AM BLOOD Calcium-8.4 Phos-2.4* Mg-2.0
 
Brief Hospital Course:
Mr. ___ was admitted on ___ after undergoing endovascular 
repair of thoracic aortic aneurysm with thoracic stent graft. He 
tolerated the procedure well,and was transfered to the CVICU 
post operatively. He remained neurovascularly intact with good 
blood pressure control. On POD 1 he tolerated a regular diet, 
was de-lined and transfered to the vascular floor. He remained 
in sinus rhythm with brief episodes of tachycardia to the 160s 
treated with lopressor IV with good response.  Cardiology was 
consulted and felt this represented atrial tachycardia and not 
atrial fibrillation.  We increased his metoprolol to 50 mg BID 
from 25mg BID. He will follow up with his cardiologist within 2 
weeks and Dr. ___ in 1 month with CTA. 
 
Medications on Admission:
ProAir 180", Spiriva 18', Symbicort 160/4.5", ASA 81', 
furosemide 20', metoprolol 25", O2 2L nc prn 

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Symbicort 160-4.5 mcg/actuation HFA Aerosol Inhaler Sig: Two 
(2)  Inhalation twice a day.  
3. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*0*
5. Spiriva with HandiHaler 18 mcg Capsule, w/Inhalation Device 
Sig: One (1)  Inhalation once a day.  
6. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q8H PRN () as needed for wheeze.  
7. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
thoracic aortic aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a repair of a thoracic 
aneurysm.  During the hospitalization, your heart rate was 
elevated.  We consulted with cardiology service and made the 
following changes to your medications:
*Please increase your metoprolol to 50mg twice daily. 

Division of Vascular and Endovascular Surgery
Endovascular Aortic Aneurysm Repair Discharge Instructions

Medications:
•Take Aspirin 81mg (enteric coated) once daily 
•Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
•Continue all other medications you were taking before surgery. 

•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications

 
Followup Instructions:
___